US07696183B2
3-(N-Methyl-N-pentylamino)propanoic acid hydrochloride (100 g) was suspended in toluene (300 mL) and polyethylene glycol 400 (120 mL). Phosphorous acid (43.01 g 1.1 eq.) was added to the mixture. The mixture was warmed and phosphorous trichloride (98.22 g, 1.5 eq.) was added at a rate such that the temperature remained below 60° C. The mixture was stirred for 10 hours at 55-60° C. whereupon it was quenched by adding water (450 mL). The water addition was controlled to maintain a reaction temperature below 70° C. The layers were separated and the aqueous layer was refluxed for 6 hours. The mixture was cooled to 40-45° C. to provide Ibandronic acid in solution and the pH was adjusted to 4.3-4.5 using 50% aqueous sodium hydroxide. Propylene glycol (150 mL) was then added to the reaction mixture at 60-65° C. and stirred for 4-5 hours. The mixture was cooled to 20-25° C. over a period of 2-3 hours and then for 3-4 hours at 0-5° C., filtered, washed with acetone (2×150 mL) and dried in vacuo.

reactant | 3-(N-Methyl-N-pentylamino)propanoic acid hydrochloride | 100 g | Cl.CN(CCCCC)CCC(=O)O
reactant | Phosphorous acid | 43.01 g, 1.1 eq. | P(O)(O)O | H3O3P
reactant | phosphorous trichloride | 98.22 g, 1.5 eq. | P(Cl)(Cl)Cl | Cl3P
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | Ibandronic acid | CCCCCN(C)CCC(O)(P(=O)(O)O)P(=O)(O)O | C9H23NO7P2
